US09145429B2
To a mixture of compound 2-(trifluoromethoxy)ethanol (9.5 mmol) in DMF/DME (20/50 mL) was added 2,5,6-trichloronicotinamide (2.1 g, 9.5 mmol) and tert-BuOK (1.30 g, 11.4 mmol) and the reaction mixture was stirred at room temperature overnight. The mixture was poured into 100 mL of cold water, diluted with 100 mL of EtOAc, the organic layer was separated and the aqueous phase was further extracted twice with EtOAc, the combined organic layers were washed with brine twice, dried over Na2SO4 and concentrated, the residue was purified by silica gel chromatography (Petroleum ether: EtOAc=1:0 to 5:1) to give 5,6-dichloro-2-(2-(trifluoromethoxy)ethoxy)nicotinamide (0.24 g, 8%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 8.31 (s, 1H), 7.97 (s, 1H), 7.59 (s, 1H), 4.62 (t, 2H, J=4.0 Hz), 4.51 (t, 2H, J=4.0 Hz).

reactant | 2-(trifluoromethoxy)ethanol | 9.5 mmol | FC(OCCO)(F)F | C3H5F3O2
reactant | 2,5,6-trichloronicotinamide | 9.5 mmol, 2.1 g | ClC1=C(C(=O)N)C=C(C(=N1)Cl)Cl | C6H3Cl3N2O
reactant | tert-BuOK | 11.4 mmol, 1.30 g | C(C)(C)(C)O[K]
reactant | water | 100 mL | O | H2O
solvent | DMF DME | 50 mL | CN(C)C=O.COCCOC
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5,6-dichloro-2-(2-(trifluoromethoxy)ethoxy)nicotinamide | 0.24 g, 8% | ClC=1C(=NC(=C(C(=O)N)C1)OCCOC(F)(F)F)Cl | C9H7Cl2F3N2O3
